US08865706B2
Step 1. Synthesis of (2R)-1-(benzyloxy)hex-4-yn-2-ol (C9)
Prop-1-yne was bubbled through a solution of n-butyllithium (2.5 M in hexanes, 1.06 L, 2.65 mol) in toluene (5 L) at 0° C. for 1.5 hours, until a thin suspension was obtained. Diethylaluminum chloride (1 M in hexanes, 2.44 L, 2.44 mol) was added, and the reaction mixture was stirred at 0° C. for 2 hours, whereupon (2R)-2-[(benzyloxy)methyl]oxirane (200 g, 1.22 mol) was added. After 10 minutes, the reaction was quenched with water (100 mL) and then with aqueous hydrochloric acid (2 M, 2 L). The mixture was extracted with ethyl acetate (2 L), and the combined organic layers were dried over sodium sulfate, concentrated, and purified by chromatography on silica gel (Gradient: 2% to 17% ethyl acetate in petroleum ether) to afford the product as a pale brown oil. Yield: 250 g, 1.22 mol, 100%. 1H NMR (400 MHz, CDCl3) δ 7.28-7.41 (m, 5H), 4.58 (s, 2H), 3.89-3.97 (s, 1H), 3.60 (dd, half of ABX pattern, J=9.5, 3.9 Hz, 1H), 3.50 (dd, half of ABX pattern, J=9.5, 6.7 Hz, 1H), 2.50 (br s, 1H), 2.38-2.43 (m, 2H), 1.79 (t, J=2.6 Hz, 3H).

reactant | Prop-1-yne | C#CC | C3H4
reactant | n-butyllithium | 2.65 mol, 2.5 M, 1.06 L | C(CCC)[Li]
reactant | Diethylaluminum chloride | 2.44 mol, 1 M, 2.44 L | [Cl-].C(C)[Al+]CC
reactant | (2R)-2-[(benzyloxy)methyl]oxirane | 1.22 mol, 200 g | C(C1=CC=CC=C1)OC[C@@H]1OC1 | C10H12O2
solvent | toluene | 5 L | C1(=CC=CC=C1)C | C7H8
product | (2R)-1-(benzyloxy)hex-4-yn-2-ol | C(C1=CC=CC=C1)OC[C@@H](CC#CC)O | C13H16O2
